US05834494
6-Bromo-5-propylthio-1-(3-pyridylcarbamoyl)indoline (E43)
6-Bromo-5-propylthioindoline (D83) (0.095 g, 0.35 mmol) was treated with 3-pyridylisocyanate as in the procedure described in Example 1. The product was recrystallised from ethanol/diethyl ether to give the title compound (0.089 g, 65%) as a white crystalline solid m.p. 224°-226° C.

reactant | 6-Bromo-5-propylthioindoline | 0.35 mmol, 0.095 g | BrC1=C(C=C2CCNC2=C1)SCCC | C11H14BrNS
reactant | 3-pyridylisocyanate | N1=CC(=CC=C1)N=C=O | C6H4N2O
product | 6-Bromo-5-propylthio-1-(3-pyridylcarbamoyl)indoline | 0.089 g, 65% | BrC1=C(C=C2CCN(C2=C1)C(NC=1C=NC=CC1)=O)SCCC | C17H18BrN3OS
